US06777567B2
2-(2-Bromophenyl)-1-(N,N-dimethylaminomethyl)ferrocene, L7
46 ml (60 mmol) of a 1.3 molar solution of s-butyllithium in cyclohexane are added dropwise to a degassed solution of 12 g (49.4 mmol) of N,N-dimethylaminomethylferrocene in 40 ml of THF while cooling in ice. The solution is stirred at 0° C. for 30 minutes, and 74 ml of a 1 molar solution of ZnCl2 in diethyl ether are subsequently added dropwise, likewise at 0° C. The reaction mixture is stirred at room temperature for 1 hour, after which 3.5 g (5 mmol) of bis(diphenylphosphine)palladium(II) chloride and a solution of 28.3 g (100 mmol) of 2-bromoiodobenzene in 50 ml of THF are added and the mixture is refluxed for 3 days. The solvent is taken off on a rotary evaporator, the residue is taken up in CH2Cl2 and extracted with water. The aqueous phase is extracted 3 times with 50 ml each time of CH2Cl2 and the combined organic phases are washed twice with 30 ml each time of water. After drying over MgSO4 and removal of the solvent under reduced pressure, the residue is chromatographed on aluminium oxide. As eluant, use is made of a mixture of petroleum ether, ether and triethylamine in a ratio of 60:1:3. The yield is 6.336 g (15.92 mmol, 32%) of L7.

reactant | s-butyllithium | C(C)(CC)[Li]
reactant | N,N-dimethylaminomethylferrocene | 49.4 mmol, 12 g | CN(C)C[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | 2-bromoiodobenzene | 100 mmol, 28.3 g | BrC1=C(C=CC=C1)I | C6H4BrI
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 2-(2-Bromophenyl)-1-(N,N-dimethylaminomethyl)ferrocene | BrC1=C(C=CC=C1)C=1[C-](C=CC1)CN(C)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C14H15BrN.C5H5.Fe/c1-16(2)10-11-6-5-8-12(11)13-7-3-4-9-14(13)15;1-2-4-5-3-1;/h3-9H,10H2,1-2H3;1-5H;/q2*-1;+2
